US04882316
50 ml of oxalyl chloride and 0.5 ml of dimethylformamide were added to a stirred suspension of 5.12 g of (2,6-dichlorophenyl)acetic acid in 120 ml of toluene. The mixture was stirred at room temperature for 2.5 hours and then evaporated to dryness. The residue was suspended in 40 ml of diethyl ether and the suspension was added gradually to 250 ml of a 0.25M solution of diazomethane in diethyl ether. The mixture was stirred at room temperature for 2 hours and then cooled to 0° C. Hydrogen chloride was then bubbled through the mixture for 10 minutes. 300 ml of water were added to the mixture and the phases were separated. The organic phase was washed with 200 ml of saturated sodium hydrogen carbonate solution and 300 ml of water, dried over anhydrous sodium sulphate and evaporated to give 6.04 g of 1-chloro-3-(2,6-dichlorophenyl)-2-propanone in form of a white solid. This solid was taken up in 21 ml of chloroform, 7.19 g of triphenylphosphine were added and the solution was stirred and heated under reflux for 6 hours. The mixture was cooled and poured into 200 ml of diethyl ether. The resulting precipitate was collected, washed with diethyl ether and dried to give 8.605 g of [3-(2,6-dichlorophenyl)-2-oxopropyl]triphenylphosphonium chloride in the form of a white solid. This solid was taken up in 1.5 l of warm water and the mixture was filtered. The filtrate was stirred while 12.5 ml of 5% sodium hydroxide solution were added. The mixture was extracted twice with 600 ml of diethyl ether each time and the combined extracts were washed with 1 l of water, dried over anhydrous sodium sulphate and evaporated. The residue was recrystallized from 150 ml of diethyl ether and yielded 4.286 g of [3-(2,6-dichlorophenyl)-2-oxopropylidene]triphenylphorphorane of melting point 98°-100° C.

reactant | oxalyl chloride | 50 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | (2,6-dichlorophenyl)acetic acid | 5.12 g | ClC1=C(C(=CC=C1)Cl)CC(=O)O | C8H6Cl2O2
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 1-chloro-3-(2,6-dichlorophenyl)-2-propanone | 6.04 g | ClCC(CC1=C(C=CC=C1Cl)Cl)=O | C9H7Cl3O
